US07897607B2
Ethyl 1-butyryl-6-mesityl-4-oxo-3,4-dihydro-2H-quinolizine-3-carboxylate
Ethyl 1-butyryl-6-mesityl-4-oxo-4H-quinolizine-3-carboxylate (0.034 g, 0.084 mmol) was dissolved in tetrahydrofuran (1 mL). Lithium aluminum hydride (0.007 g, 0.17 mmol) was added at 0° C. After 15 minutes, the reaction was quenched with Glauber's salt. The solution was filtered, concentrated, and flash chromatographed (15% ethyl acetate/hexanes) to give the title compound (0.014 g, 41% yield).

reactant | Ethyl 1-butyryl-6-mesityl-4-oxo-4H-quinolizine-3-carboxylate | 0.084 mmol, 0.034 g | C(CCC)(=O)C=1C=C(C(N2C(=CC=CC12)C1=C(C=C(C=C1C)C)C)=O)C(=O)OCC | C25H27NO4
reactant | Lithium aluminum hydride | 0.17 mmol, 0.007 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | Ethyl 1-butyryl-6-mesityl-4-oxo-3,4-dihydro-2H-quinolizine-3-carboxylate | 0.014 g, 41% yield | C(CCC)(=O)C=1CC(C(N2C(=CC=CC12)C1=C(C=C(C=C1C)C)C)=O)C(=O)OCC | C25H29NO4
